US06297239B1
Step C: Preparation of 2-Fluoro-4-[5-(2-morpholin-4-yl-ethyl)-imidazol-1-ylmethyl]-benzonitrile
To a solution of 4-[5-(2-amino-ethyl)-imidazol-1-ylmethyl]-2-fluoro-benzonitrile dihydrochloride (0.92 g, 0.0029 mmol) in acetonitrile (150 mL) and triethylamine (3.2 mL) was added 2-bromoethyl ether (0.839 mL, 0.0067 mmol) and the mixture was refluxed for 48 hr. The solvents were removed in uacuo and the residue was dissolved in EtOAc which was washed twice with 1M HCl (100 mL). The HCl layers were combined and adjusted to pH=9 with solid Na2CO3 and extraxcted 3 times with EtOAc. The EtOAc layers were combined and dried with brine and MgSO4. Removal of the EtOAc in vacuo yielded the title compound which was used as is in the next step.

reactant | 4-[5-(2-amino-ethyl)-imidazol-1-ylmethyl]-2-fluoro-benzonitrile dihydrochloride | 0.0029 mmol, 0.92 g | Cl.Cl.NCCC1=CN=CN1CC1=CC(=C(C#N)C=C1)F
reactant | 2-bromoethyl ether | 0.0067 mmol, 0.839 mL | BrCCOCCBr | C4H8Br2O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | triethylamine | 3.2 mL | C(C)N(CC)CC | C6H15N
product | 2-Fluoro-4-[5-(2-morpholin-4-yl-ethyl)-imidazol-1-ylmethyl]-benzonitrile | FC1=C(C#N)C=CC(=C1)CN1C=NC=C1CCN1CCOCC1 | C17H19FN4O
